US05240937
B. Preparation of 3-amino-2-chloro-4-[(2-fluorobenzyl)amino]pyridine
A mechanically stirred solution of 4-[(2-fluorobenzyl)amino]-3-nitropyridine (12.31 g, 49.8 mmol) in concentrated hydrochloric acid (118 ml) was heated to 90° under a nitrogen atm. Stannous chloride dihydrate (55.56 g, 246 mmol) was added in small portions over a 5 min period (the oil bath was removed until the reaction subsided). After an additional 30 min at 90°, the reaction mixture was cooled, diluted with water (200 ml) and spin evaporated in vacuo. The residue was diluted with water (200 ml) and cooled in an ice-bath, while concentrated ammonium hydroxide was added to adjust the pH to 7-8. The solids were collected and allowed to air dry overnight. The solid was treated with ethyl acetate and filtered (12×200 ml), the combined extracts were washed with water, dried (sodium sulphate) and spin evaporated in vacuo. The residue was combined with the product from a separate reaction (12 g, 48.5 mmoles) and dissolved in ethyl acetate. This solution was added to Silica Gel 60 and spin evaporated in vacuo. The residual solids were introduced to a column (5 cm×30 cm) of Silica Gel 60 wetted with ethyl acetate. The column was eluted with ethyl acetate using flash chromatography. The appropriate fractions were combined and spin evaporated in vacuo to give 20.8 g (84%) of 3-amino-2-chloro-4-[2-fluorobenzyl)amino]pyridine as a white solid, mp.=185°-187°; UV (0.1M hydrochloric acid+5% methanol), λmax 233 nm (ξ17900), 302 nm (ξ14900); (pH 7.0 buffer+5% methanol), λmax 262 nm (ξ11200), (0.1N sodium hydroxide+5% methanol), λmax 262 nm (ξ10700), 1H nmr (DMSO-d6): δ7.36-7.15 (complex m, 5H,Ar+pyridine H-6), 6.35-6.30 (d,1H,pyridine H-5), 6.27-6.33 (overlapping,1H,NH). 4.84 (2,2H,NH2), 4.41 (d,2H,J=5 Hz, CH2Ar).

reactant | 4-[(2-fluorobenzyl)amino]-3-nitropyridine | 49.8 mmol, 12.31 g | FC1=C(CNC2=C(C=NC=C2)[N+](=O)[O-])C=CC=C1 | C12H10FN3O2
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | 118 ml | Cl | ClH
reactant | hydrochloric acid | 0.1M | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-amino-2-chloro-4-[(2-fluorobenzyl)amino]pyridine | NC=1C(=NC=CC1NCC1=C(C=CC=C1)F)Cl | C12H11ClFN3
